US04684654
3-[5-(1H-Imidazol-1-yl)pentyl]-2,4(1H,3H)-quinazolinedione
A mixture of 1.53 g of 1H-imidazole-1-pentanamine, 1.63 g of isatoic anhydride and 15 ml at ethanol was stirred for 20 hours and concentrated. The viscous residue was mixed with 10 ml of ethyl chloroformate and heated for 1.5 hours in an oil bath at 95° C. The mixture was dissolved in ethanol, reconcentrated, mixed with 2.0 g of potassium hydroxide and 50 ml of ethanol and heated at reflux temperature for 3 hours. The reaction mixture was concentrated, dissolved in water and treated with acetic acid to pH 6-7. The insoluble material was collected by filtration and recrystallized from ethanol to obtain the desired product, mp 160°-162° C.

reactant | 1H-imidazole-1-pentanamine | 1.53 g | N1(C=NC=C1)CCCCCN | C8H15N3
reactant | isatoic anhydride | 1.63 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | ethanol | C(C)O | C2H6O
product | 3-[5-(1H-Imidazol-1-yl)pentyl]-2,4(1H,3H)-quinazolinedione | N1(C=NC=C1)CCCCCN1C(NC2=CC=CC=C2C1=O)=O | C16H18N4O2
